US05107013
2-(6-Methoxy-2-naphthyl)propionitrile
10 Grams of anhydrous aluminum chloride are added portionwise and under stirring to a solution containing 14.5 g of 2-(5-bromo-6-methoxy-2-naphthyl)propionitrile dissolved in 60 ml of methylene chloride and 8.3 ml of mesitylene, while keeping the temperature at about 20° C. The reaction mixture is kept at this temperature under stirring for 1 hour and then is slowly poured into a mixture made of 60 g of crushed ice and of 20 ml of a 6N aqueous solution of hydrochloric acid. The layers are separated after 15 minutes of stirring and the aqueous layer is discarded. The organic layer is twice washed with 25 ml of a 6N aqueous solution of hydrochloric acid, then with 25 ml of water and is dried over anhydrous sodium sulfate. The organic solution is evaporated to dryness under vacuum and the residue is crystallized from tetrachloroethylene obtaining 7.5 g of product with a yield of 71%.

reactant | aluminum chloride | [Cl-].[Al+3].[Cl-].[Cl-]
reactant | 2-(5-bromo-6-methoxy-2-naphthyl)propionitrile | 14.5 g | BrC1=C2C=CC(=CC2=CC=C1OC)C(C#N)C | C14H12BrNO
reactant | hydrochloric acid | Cl | ClH
solvent | methylene chloride | 60 ml | C(Cl)Cl | CH2Cl2
solvent | mesitylene | 8.3 ml | C1(=CC(=CC(=C1)C)C)C | C9H12
product | 2-(6-Methoxy-2-naphthyl)propionitrile | yield of 71% | COC=1C=C2C=CC(=CC2=CC1)C(C#N)C | C14H13NO
